US07902401B2
To a solution of 2-(dibenzylamino)-3-(difluoromethoxy)propanoic acid (280 mg, 0.835 mmol) and triethylamine (338 mg, 3.34 mmol) in THF (5 mL) at −5° C., isobutyl chloroformate (119.8 mg, 0.876 mmol) was added dropwise. After 20 minutes, 3,4-difluorobenzylamine (131.3 mg, 0.919 mmol) was added and the reaction mixture allowed to warm up to 0° C. for another hour. The mixture was then diluted with ethyl acetate and washed with water, 0.5 N HCl and Brine. The organic layer was dried over magnesium sulphate, concentrated with silica gel and purified by column chromatography, eluting with 10˜20% ethyl acetate in hexanes, to give 2-dibenzylamino-N-(3,4-difluoro-benzyl)-3-difluoromethoxy-propionamide (298 mg, 77.5%) as a colorless oil. 1H NMR (300 MHz, CDCl3): δ(ppm) 7.56 (t, 1H), 6.82-7.38 (m, 13H), 6.60 (wt, 1H), 4.58 (dd, 1H), 4.37 (m, 3H), 3.90 (d, 2H), 3.73 (d, 2H) and 3.70 (m, 1H).

reactant | 2-(dibenzylamino)-3-(difluoromethoxy)propanoic acid | 0.835 mmol, 280 mg | C(C1=CC=CC=C1)N(C(C(=O)O)COC(F)F)CC1=CC=CC=C1 | C18H19F2NO3
reactant | triethylamine | 3.34 mmol, 338 mg | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 0.876 mmol, 119.8 mg | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 3,4-difluorobenzylamine | 0.919 mmol, 131.3 mg | FC=1C=C(CN)C=CC1F | C7H7F2N
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-dibenzylamino-N-(3,4-difluoro-benzyl)-3-difluoromethoxy-propionamide | 298 mg, 77.5% | C(C1=CC=CC=C1)N(C(C(=O)NCC1=CC(=C(C=C1)F)F)COC(F)F)CC1=CC=CC=C1 | C25H24F4N2O2
